* E:\Síntesis de Redes Activas\Tps\Filtro_Ajuste_Ganancia_2.asc
* Generated by LTspice 24.1.7 for Windows.
R1 N001 Vin 6.42k
R2 N002 N001 1.8k
C1 N001 0 100n
C2 N004 N001 100n
R3 N004 0 1.8k
r_2 N002 N006 2.42k
r_1 N006 0 1k
Vcc Vcc 0 10
Vee 0 Vee 10
R4 N003 N002 10.470k
R5 Vout N003 2.92k
C3 N003 0 100n
C4 N005 N003 100n
R6 N005 0 2.92k
r_4 Vout N007 2.42k
r_3 N007 0 1k
V1 Vin 0 SINE(0 1 10) AC 1
E§Laplace Vout1 0 Vin 0 Laplace{1.642E07*s**2/(s**4 + 5080*s**3 + 9.586E07*s**2 + 2.006E11*s + 1.558E15)}
X§AO1 N004 N006 Vcc Vee N002 LM324
X§AO2 N005 N007 Vcc Vee Vout LM324
R13 N001 0 2.5k
R14 N003 0 4k
* .tran 0 0.1 0 0.01
.ac dec 10000 1 1000000
.lib E:\LM324.lib
.backanno
.end
